US05025025
To a solution of 1.0 g of ethyl 8-amino-3-[4-(3-pyridyl)-butyl]-octanoate in 100 mL of methylene chloride is added 3 g of triethylamine followed by the dropwise addition of a solution of 1.5 g of p-chlorobenzenesulfonyl chloride in 15 mL of methylene chloride. The reaction mixture is concentrated then directly purified by chromatography on silica gel using 25% ethyl acetate in methylene chloride as eluent to yield ethyl 8-(p-chlorophenylsulfonamido)-3-[4-(3-pyridyl)-butyl]octanoate.

reactant | ethyl 8-amino-3-[4-(3-pyridyl)-butyl]-octanoate | 1.0 g | NCCCCCC(CC(=O)OCC)CCCCC=1C=NC=CC1 | C19H32N2O2
reactant | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzenesulfonyl chloride | 1.5 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | ethyl 8-(p-chlorophenylsulfonamido)-3-[4-(3-pyridyl)-butyl]octanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCCC(CC(=O)OCC)CCCCC=1C=NC=CC1 | C25H35ClN2O4S
